US07208314B2
Synthesis of 1,4-Bis(3-aminopropyl)piperazine-Glutaric Dialdehyde Copolymer (MC140)
1,4-Bis(3-aminopropyl)piperazine (206 μL, 0.998 mmol, Aldrich Chemical Company) was taken up in 5.0 mL H2O. Glutaric dialdehyde (206 μL, 0.998 mmol, Aldrich Chemical Company) was added and the solution was stirred at room temperature. After 30 min, an additional portion of H2O was added (20 mL), and the mixture neutralized with 6 N HCl to pH 7, resulting in a red solution. Dialysis against H2O (3×3 L, 12,000–14,000 MWCO) and lyophilization afforded 38 mg (14%) of the copolymer.

reactant | 1,4-Bis(3-aminopropyl)piperazine | 0.998 mmol, 206 μL | NCCCN1CCN(CC1)CCCN | C10H24N4
reactant | Glutaric dialdehyde | 0.998 mmol, 206 μL | C(CC=O)CC=O | C5H8O2
reactant | HCl | 6 N | Cl | ClH
solvent | H2O | 5.0 mL | O | H2O
product | 1,4-Bis(3-aminopropyl)piperazine Glutaric Dialdehyde | 38 mg, 14% | NCCCN1CCN(CC1)CCCN.C(CC=O)CC=O | InChI=1S/C10H24N4.C5H8O2/c11-3-1-5-13-7-9-14(10-8-13)6-2-4-12;6-4-2-1-3-5-7/h1-12H2;4-5H,1-3H2
